US09227971B2
To a solution of methyl 5-morpholino-4H-1,2,4-triazole-3-carboxylate (0.090 g, 0.398 mmols†) in THF (1 mL) was added 1 N LiOH (0.800 mL, 0.80 mmol) and H2O (1 mL). The reaction was stirred at rt for 12 h. The reaction mixture was concentrated and lypholized to get 5-morpholino-4H-1,2,4-triazole-3-carboxylic acid quantative yield and used as it is in next step.

reactant | methyl 5-morpholino-4H-1,2,4-triazole-3-carboxylate | 0.398 mmols, 0.090 g | O1CCN(CC1)C=1NC(=NN1)C(=O)OC | C8H12N4O3
reactant | LiOH | 0.80 mmol, 1 N, 0.800 mL | [Li+].[OH-]
reactant | H2O | 1 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-morpholino-4H-1,2,4-triazole-3-carboxylic acid | O1CCN(CC1)C=1NC(=NN1)C(=O)O | C7H10N4O3
